US06313126B1
8-(Piperazin-1-yl)-quinoline
To a solution of 8-(4-benzyl-piperazin-1-yl)quinoline (2.63 g, 8.7 mmol) in methylene chloride (30 ml) was added vinyl chloroformate (1.1 ml, 13 mmol) at room temperature slowly. The reaction mixture was refluxed for 2 hours, and then concentrated under vacuum. The residue was dissolved in 12 N hydrochloric acid (20 ml) and stirred at room temperature for 1 hour. The mixture was concentrated, the residue was taken up with 40 ml ethanol and heated up to 50° C. for 2 hours. The solvent was removed under vacuum, the residue was dissolved in 1 N sodium hydroxide-ethyl acetate and extracted with ethyl acetate and washed with water. The organic layer was dried over anhydrous sodium sulfate. The solvent was removed under vacuum. Chromatography (10-30% methanol -methylene chloride plus ammonium hydroxide) afforded 1.86 g (90%) yellow oil; MS EI m/e 213 (M)+.

reactant | 8-(4-benzyl-piperazin-1-yl)quinoline | 8.7 mmol, 2.63 g | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=CC=C2C=CC=NC12 | C20H21N3
reactant | vinyl chloroformate | 13 mmol, 1.1 ml | ClC(=O)OC=C | C3H3ClO2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 8-(Piperazin-1-yl)-quinoline | 1.86 g, 90% | N1(CCNCC1)C=1C=CC=C2C=CC=NC12 | C13H15N3
